US07312330B2
7-(4-(Trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydro-N-(3-methoxyphenyl)pyrido[3,4-d]pyrimidin-4-amine
A mixture of 4-chloro-7-(4-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (0.041 g, 0.00013 mol), 3-methoxyaniline (0.018 mL, 0.00016 mol) in acetonitrile (1.00 mL, 0.0191 mol) and 47% HI (0.11 mL, 0.001 mol) was heated at 160° C. for 10 minutes in in a sealed tube via microwave. After cooling to r.t., the mixture was poured into saturated aqueous sodium bicarbanate (5 mL) and extracted with ethyl acetate (10 mL). The organic layer was washed with brine and dried over magnesium sulfate. Concentrated to leave a brown solid. Residue was purified by flash chromatography over silica gel (ethyl acetate/hexane gradient 0 to 100%) to give a white foam (0.013 g)

reactant | 4-chloro-7-(4-(trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.00013 mol, 0.041 g | ClC=1C2=C(N=CN1)CN(CC2)C2=NC=CC(=C2)C(F)(F)F | C13H10ClF3N4
reactant | 3-methoxyaniline | 0.00016 mol, 0.018 mL | COC=1C=C(N)C=CC1 | C7H9NO
reactant | acetonitrile | 0.0191 mol, 1.00 mL | C(C)#N | C2H3N
reactant | HI | 0.001 mol, 0.11 mL | I | HI
reactant | sodium | [Na] | Na
product | 7-(4-(Trifluoromethyl)pyridin-2-yl)-5,6,7,8-tetrahydro-N-(3-methoxyphenyl)pyrido[3,4-d]pyrimidin-4-amine | 0.013 g | FC(C1=CC(=NC=C1)N1CC=2N=CN=C(C2CC1)NC1=CC(=CC=C1)OC)(F)F | C20H18F3N5O
